US20010025111A1
2-Isopropylsulfonyl-3-(3-methoxyphenylamino)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile
2-Isopropylsulfonyl-3-(3-methoxyphenylamino)-3-methylsulfanyl-2-propenenitrile(0.500 g, 1.53 mmol) was stirred in 2-amino-3,3-dimethylbutane (2 ml) for 48 h at 100° C. under nitrogen in a sealed flask.′The reaction mixture was concentrated and the residue dissolved in dichloromethane, washed twice with 1N aqueous HCl, once with brine, and once with water. The organic phase was dried (sodium sulphate) and evaporated to afford 450 mg (80%) of the title compound as white crystals. Mp 59-62&20 C. 1H NMR (200 MHz, CDCl3): δ=0.84 (s, 9H), 0.96 (d, 3H), 1.40 (d, 6H), 3.00-3.33 (m, 2H), 3.82 (s, 3H), 6.64 (dd, 1H), 6.70 (dd, 1H), 6.81 (dd, 1H), 7.31 (dd, 1H), 7.73-7.94 (m, 1H) 8.95 (br s, 1H).

reactant | 2-Isopropylsulfonyl-3-(3-methoxyphenylamino)-3-methylsulfanyl-2-propenenitrile | 1.53 mmol, 0.500 g | C(C)(C)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC=C1)OC | C14H18N2O3S2
reactant | 2-amino-3,3-dimethylbutane | 2 ml | NC(C)C(C)(C)C | C6H15N
product | 2-Isopropylsulfonyl-3-(3-methoxyphenylamino)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile | 450 mg, 80% | C(C)(C)S(=O)(=O)C(C#N)=C(NC(C(C)(C)C)C)NC1=CC(=CC=C1)OC | C19H29N3O3S
